US05650410
According to the same manner as that described in Example 49, 2-amino-4,5,3',4'-tetramethoxybenzophenone hydrochloride was reacted with ethyl 7-(N,N-diethylamino)-3-oxoheptanoate to give ethyl 2-[4-(N,N-diethylamino)butyl]-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate. This compound was recrystallized from ethyl acetate - hexane. Colorless prisms, mp. 171°-172° C.

reactant | 2-amino-4,5,3',4'-tetramethoxybenzophenone hydrochloride | Cl.NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC
reactant | ethyl 7-(N,N-diethylamino)-3-oxoheptanoate | C(C)N(CC)CCCCC(CC(=O)OCC)=O | C13H25NO3
product | ethyl 2-[4-(N,N-diethylamino)butyl]-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | C(C)N(CC)CCCCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C30H40N2O6
